US07064123B1
(R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-N-[(S)-1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide
Similarly prepared according to the general procedure given for Example 43 but using (R)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid, prepared as described in reference 21, and (S)-2-amino-1-(5-phenyl-[1,2,4]oxadiazol-3-yl)-butan-1-ol, prepared as in reference 26; MS: 519 (M+Na), LC-MS retention time 4.5 min; 1H NMR (CDCl3) 8.19 (d, J=7 Hz, 2H), 7.65–7.51 (m. 3H), 6.64 (d, J=7 Hz, 1H), 5.44–5.38 (m, 1H), 3.69–3.38 (m, 8H), 3.05–2.98 (m, 1H), 2.76 (dd, J=16 Hz & 10 Hz, 1H), 2.26 (dd, J=16 Hz & 3 Hz, 1H), 2.10 (m, 1H), 1.80 (m, 1H), 1.75–1.59 (m, 6H), 1.28–1.13 (m, 5H), 1.03–0.98 (t, J=7 Hz, 3H), 0.92–0.81 (m, 2H).

reactant | (R)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid | C1(CCCCC1)C[C@@H](C(=O)O)CC(=O)N1CCOCC1 | C15H25NO4
reactant | (S)-2-amino-1-(5-phenyl-[1,2,4]oxadiazol-3-yl)-butan-1-ol | NC([C@H](O)C1=NOC(=N1)C1=CC=CC=C1)CC | C12H15N3O2
product | (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-N-[(S)-1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide | C1(CCCCC1)C[C@@H](C(=O)N[C@@H](CC)C(=O)C1=NOC(=N1)C1=CC=CC=C1)CC(=O)N1CCOCC1 | C27H36N4O5
